US08080568B1
A mixture of 2-fluorothiophenol (1.00 g, 7.80 mmol), bromoacetaldehyde diethyl acetal (1.41 mL, 9.36 mmol), and Cs2CO3 (3.05 g, 9.36 mmol) in anhydrous DMF (20 mL) was stirred under N2 at room temperature overnight. The reaction mixture was filtered through a sintered funnel, and the filtrate was diluted with water (20 mL). The aqueous mixture was extracted with Et2O (3×100 mL), and the organic phase was dried over anhydrous MgSO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give (2,2-diethoxyethyl)(2-fluorophenyl)sulfane (1.81 g, 95%) as a viscous liquid. 1H NMR (400 MHz, CDCl3): δ 7.46-7.41 (m, 1H), 7.24-7.18 (m, 1H), 7.09-7.02 (m, 1H), 4.64 (t, 1H, J=5.6 Hz), 3.69-3.61 (m, 2H), 3.56-3.49 (m, 2H), 3.10 (d, 2 H, J=5.6 Hz), 1.17 (t, 6H, J=7.2 Hz).

reactant | 2-fluorothiophenol | 7.80 mmol, 1.00 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | bromoacetaldehyde diethyl acetal | 9.36 mmol, 1.41 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | Cs2CO3 | 9.36 mmol, 3.05 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2,2-diethoxyethyl)(2-fluorophenyl)sulfane | 1.81 g, 95% | C(C)OC(CSC1=C(C=CC=C1)F)OCC | C12H17FO2S
